* PEX produced on Thu Jul 23 04:44:30 PM CEST 2026 using /foss/tools/sak/sak-pex.sh with m=2 and s=1
* NGSPICE file created from sg13_hv_pmos_ring_dev_pex.ext - technology: ihp-sg13g2

.subckt sg13_hv_pmos_ring_dev_pex B D S G
X0 S G D B sg13_hv_pmos ad=0.102p pd=1.28u as=0.102p ps=1.28u w=0.3u l=0.4u
C0 D S 0.02067f
C1 G B 0.16234f
C2 D B 0.03749f
C3 S B 0.03749f
C4 B sub 0.5219f
.ends

